US08133908B2
Description 40: 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylic acid (D40)
A solution of methyl 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylate D39 (36 mg) and LiOH (5.93 mg, 0.247 mmol) in THF/water (2:1, 3 ml) was stirred overnight. The mixture was evaporated under reduced pressure; the residue was taken up in water (2 ml) and neutralised with 1 M HCl water solution and then loaded onto a pre-conditioned C18 5 g column (the column was eluted with water and then MeOH). The methanol fractions were evaporated under reduced pressure to give the title compound D40 (34 mg) as a white solid. UPLC (Basic QC_POS—50-800): rt=0.30 minutes. peak observed: 205 (M+1). C9H8N4O2 requires 204. 1H NMR (400 MHz, MeOD) δ (ppm) 8.24 (d, 1 H), 7.99 (s, 2 H), 7.61 (d, 1 H), 2.67 (s, 3 H).

reactant | methyl 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylate | CC1=CC=C(C(=N1)C(=O)OC)N1N=CC=N1 | C10H10N4O2
reactant | LiOH | 0.247 mmol, 5.93 mg | [Li+].[OH-]
solvent | THF water | 3 ml | C1CCOC1.O
product | 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylic acid | CC1=CC=C(C(=N1)C(=O)O)N1N=CC=N1 | C9H8N4O2
